US06664265B2
A solution of the compound of Example 67, 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.47 g, 5.14 mmol) in 40 mL 1-methyl-2-pyrrolidinone was treated with triethylamine (1.43 mL, 10.3 mmol). With vigorous stirring, the solution was treated dropwise with benzoyl chloride (0.597 mL, 5.14 mmol). After 18 h, the reaction was concentrated. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave a clear, colorless oil. The oil was triturated in ether and filtered to yield 531 mg of N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}benzamide as a white solid. mp 210-212° C.; 1H NMR (300 MHz, DMSO-d6) δ8.37 (t, J=7.0 Hz, 1 H), 8.05 (d, J=7.6 Hz, 1 H), 7.78-7.75 (m, 2 H), 7.61 (dd, J=1.1, 8.3 Hz, 1 H), 7.54-7.37 (m, 4 H), 7.21-7.16 (m, 1 H), 6.55 (s,2 H), 4.70 (t, J=5.0 Hz, 2 H), 3.90 (t, J=5.0 Hz, 2 H), 3.49 (t, J=6.1 Hz, 2 H), 3.34 (t, J=5.7 Hz, 2 H), 2.59 (s, 3 H); 13C NMR (75 MHz, DMSO-d6) δ166.7, 152.0, 151.1, 145.1, 134.8, 132.8, 131.4, 128.6, 127.4, 126.6, 121.3, 120.4,115.1, 69.4, 69.3, 45.8, 14.1; MS m/z 390 (M+H)+; Anal. Calcd for C22H23N5O2: C, 67.85; H, 5.95; N, 17.98. Found: C, 67.56; H, 5.81; N, 17.87.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.14 mmol, 1.47 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5O
reactant | triethylamine | 10.3 mmol, 1.43 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 5.14 mmol, 0.597 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | 1-methyl-2-pyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
product | N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}benzamide | 531 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(C2=CC=CC=C2)=O)C | C22H23N5O2
